US04209621
2-Hydrazino-5-phenylpyrimidine
To a solution of 5.4 g. of 2-chloro-5-phenylpyrimidine in 25 ml. of pyridine is added 25 ml. of hydrazine hydrate. The mixture is heated on a steam bath for one hour with occasional swirling. Water is added and the material that is separated is collected and crystallized from methanol to give 4.5 g. of the product of the Example, m.p. 155° C.

reactant | 2-chloro-5-phenylpyrimidine | ClC1=NC=C(C=N1)C1=CC=CC=C1 | C10H7ClN2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hydrazine hydrate | O.NN
solvent | Water | O | H2O
product | 2-Hydrazino-5-phenylpyrimidine | N(N)C1=NC=C(C=N1)C1=CC=CC=C1 | C10H10N4
